US06500863B1
3-[4-(tert-butoxycarbonyl)piperazin-1-yl]sulfonyl-4-chloro-2-hydroxyaniline
Following the general hydrogenation procedure outlined in example 15, 1-[4-(tert-butoxycarbonyl)piperazin-1-yl]sulfonyl-6-chloro-2-hydroxy-3-nitrobenzene (256 mg, 0.61 mmol) was reduced with hydrogen and 10% Pd/C (120 mg) to form the desired product (220 mg, 93%). 1H NMR (MeOD-d4): δ 6.84 (m, 2H), 3.45 (m, 4H), 3.27 (m, 4H), 1.43 (s, 9H).

reactant | 1-[4-(tert-butoxycarbonyl)piperazin-1-yl]sulfonyl-6-chloro-2-hydroxy-3-nitrobenzene | 0.61 mmol, 256 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C15H20ClN3O7S
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 120 mg | [Pd] | Pd
product | 3-[4-(tert-butoxycarbonyl)piperazin-1-yl]sulfonyl-4-chloro-2-hydroxyaniline | 220 mg, 93% | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C=1C(=C(N)C=CC1Cl)O | C15H22ClN3O5S
